US04755535
B. Preparation of 1-Dodecylazacyclohept-3-ene-2-one
A solution of 10.0 g (28 mmol) of 3-bromo-1-dodecylazacycloheptan-2-one and 5.1 g (47 mmol) of 2,6-lutidine was refluxed for 3 hours, then cooled to room temperature. 100 ml of toluene was added, the mixture was filtered, and the filtrate was concentrated in vacuo to yield a crude oil. Purification by flash chromatography (silica gel; 7:3 petroleum ether/ether V/V) gave the product as a colorless oil, Rf =0.38; Kuglerohr distilled at 165°-170° C./0.2 mm Hg.

reactant | 3-bromo-1-dodecylazacycloheptan-2-one | 28 mmol, 10.0 g | BrC1C(N(CCCC1)CCCCCCCCCCCC)=O | C18H34BrNO
reactant | 2,6-lutidine | 47 mmol, 5.1 g | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Dodecylazacyclohept-3-ene-2-one | C(CCCCCCCCCCC)N1C(C=CCCC1)=O | C18H33NO
